US04053601
A stirred mixture of 6-[2-(2-hydroxy-3-isopropylaminopropoxy)phenyl]-3(2H)-pyridazinethione (1.5 g, 0.005 mole) and hydrazine hydrate (30 ml) was heated under reflux in an atmosphere of nitrogen for 90 minutes. Excess of hydrazine hydrate was removed under reduced pressure to give 3-hydrazino-6-[2-(2-hydroxy-3-isopropylaminopropoxy)phenyl]-pyridazine as an oil which was converted into an amorphous citrate (2 g, 83%).

reactant | 6-[2-(2-hydroxy-3-isopropylaminopropoxy)phenyl]-3(2H)-pyridazinethione | 0.005 mole, 1.5 g | OC(COC1=C(C=CC=C1)C=1C=CC(NN1)=S)CNC(C)C | C16H21N3O2S
reactant | hydrazine hydrate | 30 ml | O.NN
product | 3-hydrazino-6-[2-(2-hydroxy-3-isopropylaminopropoxy)phenyl]-pyridazine | N(N)C=1N=NC(=CC1)C1=C(C=CC=C1)OCC(CNC(C)C)O | C16H23N5O2
